US06759415B1
Preparation of (5S)-1-(1H-Indol-3-ylmethyl)-5-[2-(4-phenyl-1H-imidazol-2-yl)ethyl]-3-[3-(trifluoromethyl)phenyl]-2,4-imidazolidinedione
3-trifluoromethyl-phenylisocyanate (11 mg, 1.2 eq.) is added to a solution of benzyl (2S)-2-[(1H-indol-3-ylmethyl)amino]-4-(4-phenyl-1H-imidazol-2-yl)butanoate (23 mg, 1 eq.) in 2 ml of THF. The mixture is stirred for 2 hours at approximately 20° C. then diluted with 2 ml of THF. Aminomethylpolystyrene resin (acquired from Novabiochem, load 3.2 mmol/g, 125 mg, 2 eq.) is added, then triethylamine (200 μl). The mixture is stirred for 15 hours at approximately 20° C. then filtered on frit. The filtrate is then concentrated to dryness under reduced pressure at 40° C. (a co-evaporation with dichloromethane is necessary to eliminate the excess triethylamine) in order to produce the expected compound (25 mg, 92% yield).

reactant | 3-trifluoromethyl-phenylisocyanate | 11 mg, 1.2 eq. | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | benzyl (2S)-2-[(1H-indol-3-ylmethyl)amino]-4-(4-phenyl-1H-imidazol-2-yl)butanoate | 23 mg, 1 eq. | N1C=C(C2=CC=CC=C12)CN[C@H](C(=O)OCC1=CC=CC=C1)CCC=1NC=C(N1)C1=CC=CC=C1 | C29H28N4O2
reactant | triethylamine | 200 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (5S)-1-(1H-Indol-3-ylmethyl)-5-[2-(4-phenyl-1H-imidazol-2-yl)ethyl]-3-[3-(trifluoromethyl)phenyl]-2,4-imidazolidinedione | 25 mg, 92% yield | N1C=C(C2=CC=CC=C12)CN1C(N(C([C@@H]1CCC=1NC=C(N1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)=O | C30H24F3N5O2
